US05306719
4.12 Grams of 2-(4-chlorobenzoyl)ethyl chloride and 6.08 g of sodium iodide were dispersed in 50 ml of dimethylformamide, and heated at 50° C. for 1.5 hours. Then, to this dispersion was added 50 ml of dimethylformamide solution containing 3 g of 6-(1-piperazinylcarbonyl)-3,4dihydrocarbostyril, and further 9.8 g of potassium carbonate was added thereto and reacted by heating at 70° C. for 3 to 4 hours. After the reaction was completed, the insoluble matters were removed by filtration, and the solvent in the filtrate was removed by evaporation under reduced pressure. The residue thus obtained was extracted with chloroform, and the extract was dried with anhydrous calcium sulfate, then concentrated. The thus obtained residue was purified by means of a silica gel column chromatography (eluent: dichloromethane:methanol=50:1), then recrystallzied from ethanol-diethyl ether to yield 2.29 g of 6-{[2-(4-chlorobenzoyl)ethyl]-1-piperazinylcarbonyl}-3,4-dihydrocarbostyril. White powdery substance. Melting point: 198°-200° C. (decomp.)

reactant | 2-(4-chlorobenzoyl)ethyl chloride | ClC1=CC=C(C(=O)CCCl)C=C1 | C9H8Cl2O
reactant | sodium iodide | 6.08 g | [I-].[Na+]
reactant | 6-(1-piperazinylcarbonyl)-3,4dihydrocarbostyril | 3 g | N1(CCNCC1)C(=O)C=1C=C2CCC(NC2=CC1)=O | C14H17N3O2
reactant | potassium carbonate | 9.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 6-{[2-(4-chlorobenzoyl)ethyl]-1-piperazinylcarbonyl}-3,4-dihydrocarbostyril | 2.29 g | ClC1=CC=C(C(=O)CCC2N(CCNC2)C(=O)C=2C=C3CCC(NC3=CC2)=O)C=C1 | C23H24ClN3O3
